US08258306B2
A mixture of tert-butyl 2-((R)-2-methyl-4-(2-phenylcyclohexyl)piperazin-1-yl)acetate (430 mg, 1.154 mmol) in 3 mL of 37% HCl was stirred at 50 C for 3 h. After LCMS showed complete conversion to the product, the solution was evaporated under high vacuum to dryness. The residue was crashed out of diethyl ether and dried to give 2-((R)-2-methyl-4-(2-phenylcyclohexyl)piperazin-1-yl)acetic acid dihydrochloride (440 mg, 97.9% yield) as an off white solid. MS (ESI, pos. ion) m/z: 317.2 (M+1).

reactant | tert-butyl 2-((R)-2-methyl-4-(2-phenylcyclohexyl)piperazin-1-yl)acetate | 1.154 mmol, 430 mg | C[C@H]1N(CCN(C1)C1C(CCCC1)C1=CC=CC=C1)CC(=O)OC(C)(C)C | C23H36N2O2
reactant | HCl | 3 mL | Cl | ClH
product | 2-((R)-2-methyl-4-(2-phenylcyclohexyl)piperazin-1-yl)acetic acid dihydrochloride | 440 mg, 97.9% yield | Cl.Cl.C[C@H]1N(CCN(C1)C1C(CCCC1)C1=CC=CC=C1)CC(=O)O | InChI=1S/C19H28N2O2.2ClH/c1-15-13-21(12-11-20(15)14-19(22)23)18-10-6-5-9-17(18)16-7-3-2-4-8-16;;/h2-4,7-8,15,17-18H,5-6,9-14H2,1H3,(H,22,23);2*1H/t15-,17?,18?;;/m1../s1
